US07825260B2
Preparation of [(R)-3-(3-Amino-4-hydroxy-phenyl)-1-hydroxymethyl-1-methyl-propyl]-carbamic acid tert-butyl ester
An argon purged solution of [(R)-1-Hydroxymethyl-3-(4-hydroxy-3-nitro-phenyl)-1-methyl-propyl]-carbamic acid tert-butyl ester (3.02 g, 8.87 mmol) in ethanol (40 ml) was treated with 10% Pd on activated charcoal (0.5 g). Argon was replaced by hydrogen and the reaction was allowed to proceed under atmospheric pressure for 2 hours. The reaction suspension was filtered and the filtrate evaporated to dryness in vacuum. Silica gel chromatography (eluent: DCM/methanol 20/1 to 10/1) followed by crystallization from diethyl ether provided the title compound as colorless crystals. mp 122.1/123.0° C.

reactant | [(R)-1-Hydroxymethyl-3-(4-hydroxy-3-nitro-phenyl)-1-methyl-propyl]-carbamic acid tert-butyl ester | 8.87 mmol, 3.02 g | C(C)(C)(C)OC(N[C@@](CCC1=CC(=C(C=C1)O)[N+](=O)[O-])(C)CO)=O | C16H24N2O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Pd on activated charcoal | 0.5 g | [Pd] | Pd
product | [(R)-3-(3-Amino-4-hydroxy-phenyl)-1-hydroxymethyl-1-methyl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@](CCC1=CC(=C(C=C1)O)N)(C)CO)=O | C16H26N2O4
